US06207671B1
[2-Cyclopentyl-4-(4-fluorophenyl)-5-hydroxy-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanone
625.3 g of 2-cyclopentyl-4-(4-fluorophenyl)-7,7-dimethyl-3-(4-trifluoromethylbenzoyl)-7,8-dihydro-6H-quinolin-5-one were reduced at 0° to −5° C. in 6 liters of tetrahydrofuran using 56.4 g of IR,2S-aminoindanol and 800 g of boranediethylaniline complex. Quenching of the reaction was carried out after approximately 20 hours using 500 ml of 1,2-ethanediol. The tetrahydrofuran was distilled off, the resulting oil was taken up in ethyl acetate and the organic phase was dried and concentrated after washing with 2 N hydrochloric acid and saturated sodium hydrogen carbonate solution. The residue was recrystallized hot from cyclohexane. A total of 574 g of colorless crystals having a purity of 99.4% according to HPLC (e.e. 97.4%) resulted.

reactant | 2-cyclopentyl-4-(4-fluorophenyl)-7,7-dimethyl-3-(4-trifluoromethylbenzoyl)-7,8-dihydro-6H-quinolin-5-one | 625.3 g | C1(CCCC1)C1=NC=2CC(CC(C2C(=C1C(C1=CC=C(C=C1)C(F)(F)F)=O)C1=CC=C(C=C1)F)=O)(C)C | C30H27F4NO2
solvent | tetrahydrofuran | 6 liters, 56.4 g | O1CCCC1 | C4H8O
product | [2-Cyclopentyl-4-(4-fluorophenyl)-5-hydroxy-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl]-(4-trifluoromethylphenyl)-methanone | C1(CCCC1)C1=NC=2CC(CC(C2C(=C1C(=O)C1=CC=C(C=C1)C(F)(F)F)C1=CC=C(C=C1)F)O)(C)C | C30H29F4NO2
